US07858640B2
[8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl]acetic Acid Methyl Ester
A mixture of trifluoromethanesulfonic acid 8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl ester (0.11 g), 1-(tert-butyldimethylsilyloxy)-1-methoxyethene (0.22 mL), sodium acetate (0.019 g), bis(dibenzylideneacetone) palladium (0.006 g) and 1,1′-bis(diphenylphospino) ferrocene (0) (0.006 g) in N,N-dimethylformamide (1.0 mL) was heated by microwave irradiation at 120° C. for 20 minutes. The mixture was diluted with ethyl acetate and this solution was washed with saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (1:0 to 99:1 by volume) gave title compound as a brown oil, 0.050 g.

reactant | trifluoromethanesulfonic acid 8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl ester | 0.11 g | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)OS(=O)(=O)C(F)(F)F | C20H17ClF3NO5S2
reactant | 1-(tert-butyldimethylsilyloxy)-1-methoxyethene | 0.22 mL | [Si](C)(C)(C(C)(C)C)OC(=C)OC | C9H20O2Si
reactant | sodium acetate | 0.019 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(dibenzylideneacetone) palladium | 0.006 g | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | 1,1′-bis(diphenylphospino) ferrocene | 0.006 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl]acetic Acid Methyl Ester | COC(CC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C22H22ClNO4S
